US07220856B2
7-Chloro-4-[4-(4-fluorobenzylamino(imino)methyl)piperazin-1-yl]quinoline
7-Chloro-4-(4-cyanopiperazin-1-yl)quinoline (219 mg, 0.8 mmol) and 4-fluorobenzylamine (114 μL, 1.0 mmol) in 1,1,1,3,3,3-hexafluoro-2-propanol (5 mL) are heated at 130° C. in a sealed tube for 44 h. The reaction mixture is concentrated, and the residue is purified by column chromatography with CH2Cl2—NH3-MeOH to give the title product as a yellow foam.

reactant | 7-Chloro-4-(4-cyanopiperazin-1-yl)quinoline | 0.8 mmol, 219 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C#N | C14H13ClN4
reactant | 4-fluorobenzylamine | 1.0 mmol, 114 μL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | 1,1,1,3,3,3-hexafluoro-2-propanol | 5 mL | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
product | 7-Chloro-4-[4-(4-fluorobenzylamino(imino)methyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=N)NCC1=CC=C(C=C1)F | C21H21ClFN5
